US04496720
5.1 ml (59 mmoles) of allyl bromide were added to a mixture of 10.04 g (51.2 mmoles) of p-tolylthio(trimethyl)silane in 20 ml of acetonitrile and 18 ml of hexamethylphosphoric triamide and the conversion was complete after stirring for 20 minutes at room temperature. The reaction mixture was treated as described in Example 3 to obtain 7.1 g (85% yield) of allyl p-tolyl sulfide boiling at 110°-111° C./14 mm Hg and having a refractive index of nD25 =1.5644.

reactant | allyl bromide | 59 mmoles, 5.1 ml | C(C=C)Br | C3H5Br
reactant | p-tolylthio(trimethyl)silane | 51.2 mmoles, 10.04 g | C1(=CC=C(C=C1)S[Si](C)(C)C)C | C10H16SSi
solvent | acetonitrile | 20 ml | C(C)#N | C2H3N
solvent | hexamethylphosphoric triamide | 18 ml | CN(P(N(C)C)(N(C)C)=O)C | C6H18N3OP
product | allyl p-tolyl sulfide | 7.1 g, 85% yield | C1(=CC=C(C=C1)SCC=C)C | C10H12S
